US08304371B2
methyl 3-cyano-4-(1H-1,2,4-triazol-1-yl)-N-[(trimethylsilyl)methyl]benzenecarbimidothioate (0.2 g) and 1,2,3-trichloro-5-[1-(trifluoromethyl)ethenyl]benzene (0.17 g) were dissolved in THF and cooled to −5° C. to be stirring. Additionally a solution of tetrabutylammonium fluoride (0.099 mL of 1.0 M in THF) in THF was added over 10 minutes under argon atmosphere. The reaction mixture was stirred for 30 minutes at the same temperature and returned to room temperature gradually, and then stirred 4 hours. Water was added to the reaction liquor, and aqueous layer was extracted with ethyl acetate. The combined organic layers, were washed with a saturated aqueous brine, subsequently dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, and the resulting mixture was purified by silica gel chromatography, to obtain 2-(1H-1,2,4-triazol-1-yl)-5-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]benzonitrile (0.25 g) at a yield of 85%.

reactant | methyl 3-cyano-4-(1H-1,2,4-triazol-1-yl)-N-[(trimethylsilyl)methyl]benzenecarbimidothioate | 0.2 g | C(#N)C=1C=C(C=CC1N1N=CN=C1)C(=NC[Si](C)(C)C)SC | C15H19N5SSi
reactant | 1,2,3-trichloro-5-[1-(trifluoromethyl)ethenyl]benzene | 0.17 g | ClC1=C(C(=CC(=C1)C(=C)C(F)(F)F)Cl)Cl | C9H4Cl3F3
reactant | tetrabutylammonium fluoride | 1.0 M, 0.099 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(1H-1,2,4-triazol-1-yl)-5-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]benzonitrile | 0.25 g, yield of 85% | N1(N=CN=C1)C1=C(C#N)C=C(C=C1)C=1CC(CN1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C20H11Cl3F3N5
